US04584285
Hydrogenate a solution of N-[1(S)-ethoxycarbonyl-2-(4-nitrophenyl)ethyl]-(S)-alanine, t-butyl ester (20.0 g) (see Preparation 2, IA) in absolute ethanol (500 ml) in the presence of 10% palladium on carbon (1.5 g) at 50 psi in a Parr shaker apparatus. Remove the catalyst by filtration and concentrate the filtrate in vacuo to give N-[1(S)-ethoxycarbonyl-2-(4-aminophenyl)ethyl]-(S)-alanine, t-butyl ester.

reactant | N-[1(S)-ethoxycarbonyl-2-(4-nitrophenyl)ethyl]-(S)-alanine, t-butyl ester | 20.0 g | C(C)OC(=O)[C@H](CC1=CC=C(C=C1)[N+](=O)[O-])N[C@@H](C)C(=O)OC(C)(C)C | C18H26N2O6
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
product | N-[1(S)-ethoxycarbonyl-2-(4-aminophenyl)ethyl]-(S)-alanine, t-butyl ester | C(C)OC(=O)[C@H](CC1=CC=C(C=C1)N)N[C@@H](C)C(=O)OC(C)(C)C | C18H28N2O4
